US04382143
To 15 g. 4-(hexadecylamino)-2-thiophenecarboxylic acid in 200 ml. warm chloroform is added a solution of 15 g. of sodium carbonate in 150 ml. water. To the vigorously stirred solution is added 10 g. carbobenzyloxy chloride. After 2 hours stirring at 40° C., the organic layer is separated, washed three times with 1 N hydrochloric acid, dried, and evaporated to yield an oil. The oil is dissolved in 300 ml. toluene, treated with 15 ml. thionyl chloride and the solution is refluxed for 5 hours. The solvents are evaporated and the residue is dissolved three times in toluene, evaporating each time, ultimately to yield 4-[N-(carbobenzyloxy)-N-(hexadecyl)amino]-2-thiophenecarbonyl chloride as a viscous, orange oil.

reactant | 4-(hexadecylamino)-2-thiophenecarboxylic acid | C(CCCCCCCCCCCCCCC)NC=1C=C(SC1)C(=O)O | C21H37NO2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbobenzyloxy chloride | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-[N-(carbobenzyloxy)-N-(hexadecyl)amino]-2-thiophenecarbonyl chloride | C(=O)(OCC1=CC=CC=C1)N(CCCCCCCCCCCCCCCC)C=1C=C(SC1)C(=O)Cl | C29H42ClNO3S
